US05344843
A stirred mixture of 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (1.086 g) in dimethylformamide (10 mL) under argon was treated with 55% sodium hydride (0.261 g), stirred for 15 minutes and treated with the mesylate prepared from 0.906 g of 4-pyridinebutanol. The mixture was heated under argon at 60° C. for 4 hours. The cooled mixture was treated with glacial acetic acid (2 drops) and the volatiles were removed under vacuum. The residue was mixed with dichloromethane and dilute cold sodium bicarbonate solution. The dichloromethane extracts were dried (Na2SO4), filtered, and evaporated to give crude product. The material was purified by HPLC (hexane-acetone; 2: 1) to provide 0.58 g of alpha-oxo-4-[4-(4-pyridinyl)butoxy]benzeneacetic acid methyl ester as a colorless oil whose NMR was compatible with the desired product.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | 1.086 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | sodium hydride | 0.261 g | [H-].[Na+]
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | 4-pyridinebutanol | 0.906 g | N1=CC=C(C=C1)CCCCO | C9H13NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | alpha-oxo-4-[4-(4-pyridinyl)butoxy]benzeneacetic acid methyl ester | 0.58 g | COC(C(C1=CC=C(C=C1)OCCCCC1=CC=NC=C1)=O)=O | C18H19NO4
